US08748436B2
(i) {4-[5-(2,5-Difluoro-phenoxy)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetic acid tert-butyl ester
To a solution of 100 mg [4-(5-methanesulfonyl-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethyl-phenoxy]-acetic acid tert-butyl ester in 1.5 ml of N,N-dimethylformamide were added 62 mg of potassium carbonate and 32 mg of 2,5-difluoro-phenol. The mixture was stirred at room temperature for 12 h. Then the mixture was poured onto water, neutralized by addition of a 10% aqueous solution of sodium hydrogensulfate, and extracted twice with ethyl acetate. The combined organic layers were dried and concentrated in vacuo. After filtration the solvent was distilled off in vacuo and the residue purified by preparative HPLC to yield 69 mg of the title compound.

reactant | [4-(5-methanesulfonyl-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethyl-phenoxy]-acetic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1C)C=1OC=2N=C(N=C(C2N1)OCCC)S(=O)(=O)C)C)=O | C23H29N3O7S
reactant | potassium carbonate | 62 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-difluoro-phenol | 32 mg | FC1=C(C=C(C=C1)F)O | C6H4F2O
reactant | sodium hydrogensulfate | S(=O)(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | {4-[5-(2,5-Difluoro-phenoxy)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetic acid tert-butyl ester | 69 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1C)C=1OC=2N=C(N=C(C2N1)OCCC)OC1=C(C=CC(=C1)F)F)C)=O | C28H29F2N3O6
